US05500417
[1,2,4-Benzenetriyltris(methylene)]trisphosphonic acid, hexamethyl ester
A solution of 1,2,4-tris(bromomethyl)benzene (Preparation 4, 0.532 g, 0.0015 M) and trimethylphosphite (15 mL, 0.126 M) in dry toluene (25 mL) is stirred and heated at reflux temperature for 80 hours. Solvent and excess trimethylphosphite are removed under reduced pressure and the oily residue is chromatographed over silica gel (50 g, 40-63 μm, 10% CH3OH--CHCl3, 8 mL fractions) using 10% CH3OH--CHCl3 to elute the column. Fractions 16-22 contain the title compound (0.587 g, 0.00132 M, 88%), which is a viscous oil.

reactant | 1,2,4-tris(bromomethyl)benzene | 0.0015 M, 0.532 g | BrCC1=C(C=C(C=C1)CBr)CBr | C9H9Br3
reactant | trimethylphosphite | 0.126 M, 15 mL | COP(OC)OC | C3H9O3P
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | [1,2,4-Benzenetriyltris(methylene)]trisphosphonic acid, hexamethyl ester | C1(=C(C=C(C=C1)CP(OC)(OC)=O)CP(OC)(OC)=O)CP(OC)(OC)=O | C15H27O9P3
